US04764514
A solution of 4-methoxybenzoyl chloride (20.7 g) in tetrahydrofuran (50 ml) was added dropwise to a mixture of 4-oxo-thiazolidine (12.5 g) and triethylamine (16.9 ml) in tetrahydrofuran (200 ml) at -5° C. with stirring. The mixture was stirred at that temperature for 3 hours and at room temperature for 4 hours, and allowed to stand overnight. After the solvent was evaporated in vacuo, the residue was mixed with water and extracted with ethyl acetate. The extract was washed with saturated aqueous sodium hydrogen carbonate and then with water, dried over magnesium sulfate and evaporated in vacuo. The residue was recrystallized from a mixture of ethyl acetate and n-hexane to give 3-(4-methoxybenzoyl)-4-oxothiazolidine (18.1 g) as slightly brown prisms.

reactant | 4-methoxybenzoyl chloride | 20.7 g | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | 4-oxo-thiazolidine | 12.5 g | O=C1NCSC1 | C3H5NOS
reactant | triethylamine | 16.9 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 3-(4-methoxybenzoyl)-4-oxothiazolidine | 18.1 g | COC1=CC=C(C(=O)N2CSCC2=O)C=C1 | C11H11NO3S
